US07884107B2
n-Butyl lithium (2.5 M in hexanes, 2.20 mmol) was added dropwise to 4-bromo-3-methoxymethyl-5-methyl isoxazole (412 mg, 2.00 mmol) in THF (8 mL) at −78° C. under nitrogen. After stirring at −78° C. for 30 min triisopropylborate (564 mg, 3.00 mmol) was added dropwise. The temperature was maintained at −78° C. for 2 h then the reaction was allowed to warm to room temperature and stirred for 15 h. The reaction mixture was poured into a mixture of 1N hydrochloric acid and water (1:1, 100 mL) and stirred rapidly for 1 h. The organic layer was separated and the aqueous layer was extracted with ether (3×25 mL). The combined organic layers were washed with brine (25 mL), dried over magnesium sulfate, filtered and evaporated to dryness. The residue was triturated with hexanes (30 mL) then dried under high vacuum to provide 89 mg (29% yield) of 3-methoxymethyl-5-methyl isoxazole-4-boronic acid as a waxy tan solid which was immediately carried forward to the next reaction: 1H NMR (300 MHz, CDCl3) δ ppm 4.74 (s, 2H), 3.37 (s, 3H), 2.74 (s, 3H), 2.60 (s, 2H).

reactant | n-Butyl lithium | 2.20 mmol, 2.5 M | C(CCC)[Li]
reactant | 4-bromo-3-methoxymethyl-5-methyl isoxazole | 2.00 mmol, 412 mg | BrC=1C(=NOC1C)COC | C6H8BrNO2
reactant | triisopropylborate | 3.00 mmol, 564 mg | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | 3-methoxymethyl-5-methyl isoxazole-4-boronic acid | 89 mg, 29% yield | COCC1=NOC(=C1B(O)O)C | C6H10BNO4
